US07402684B2
(S)-2-(4-p-Tolyloxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester:
4-p-Tolyloxy-phenol (2 g, 9.98 mmol) was taken into anhydrous dimethylformamide (40 mL) and cooled to 0° C. A 60% dispersion of Sodium hydride (0.52 g, 13 mmol) was added portionwise over 10 min. The reaction was kept at 0° C. for 45 min. and then heated to 35° C. for 15 min. (S)-2-(Toluene-4-sulfonyloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (4.26 g, 11.9 mmol) was taken into anhydrous dimethylformamide (20 mL) and added to the reaction dropwise over 5 min. The reaction was heated at 75° C. for 12 h. The reaction was quenched with water under nitrogen atmosphere. The mixture was extracted with ethyl acetate (3×). The ethyl acetate was washed with brine, dried over sodium sulfate, and concentrated to dryness. The crude product was purified by flash chromatography (20:1 silica ratio, eluted with 10% ethyl acetate in hexane) to obtain the title product (3.02 g, 7.88 mmol, 79% yield); MS; m/z 383. found 384 (M+H); 1H NMR (400 MHz, DMSO-d6) δ 1.40 (s, 9H), 1.80 (s, 1H), 1.89-1.92 (m, 3H), 2.26 (s, 3H), 3.27 (s, 2H), 3.86 (s, 1H), 4.00-4.06 (m, 2H), 6.81-6.83 (m, 2H), 6.91-6.98 (m, 4H), 7.13-7.15 (m, 2H).

reactant | 4-p-Tolyloxy-phenol | 9.98 mmol, 2 g | C1(=CC=C(C=C1)OC1=CC=C(C=C1)O)C | C13H12O2
reactant | Sodium hydride | 13 mmol, 0.52 g | [H-].[Na+]
reactant | (S)-2-(Toluene-4-sulfonyloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 11.9 mmol, 4.26 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C17H25NO5S
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | (S)-2-(4-p-Tolyloxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 7.88 mmol, 3.02 g, 79% yield | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=CC=C(C=C1)OC1=CC=C(C=C1)C | C23H29NO4
